US04105790
A solution of pivaloyl chloride (4.41ml.) in tetrahydrofuran (30ml.) was added to a stirred solution, cooled to -15° C., of 3-[4-(chloroacetyl)phenyl]propionic acid (9.7g.) and triethylamine (5.5ml.) in tetrahydrofuran (30ml.) and acetonitrile (40ml.). The resultant mixture was stirred for one hour at -15° C. A suspension of DL-alanine methyl ester hydrochloride (5.0g.) in dimethylformamide (30ml.) containing triethylamine (5.5ml.) was then added over 15 minutes. The mixture was stirred at -15° C. for 1 hour and then for 16 hours at room temperature. Saturated sodium bicarbonate solution (30ml.) was added and the solution was stirred for 30 minutes and then evaporated in vacuo. The residue was mixed with water (150ml.) and was extracted with chloroform (2 × 100ml.). The extracts were washed successively with 10% hydrochloric acid (200ml.), water (200ml.), saturated sodium bicarbonate solution (200ml.) and water (200ml.), dried (MgSO 4) and evaporated. The residue was recrystallised from toluene/petrol to give N-{3-[4-(chloroacetyl)phenyl]propionyl} alanine methyl ester, m.p. 122°-124° C.

reactant | pivaloyl chloride | 4.41ml | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | 3-[4-(chloroacetyl)phenyl]propionic acid | ClCC(=O)C1=CC=C(C=C1)CCC(=O)O | C11H11ClO3
reactant | DL-alanine methyl ester hydrochloride | 5.0g | Cl.COC(C(N)C)=O
reactant | sodium bicarbonate | 30ml | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 30ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30ml | O1CCCC1 | C4H8O
solvent | acetonitrile | 40ml | C(C)#N | C2H3N
solvent | dimethylformamide | 30ml | CN(C=O)C | C3H7NO
solvent | triethylamine | 5.5ml | C(C)N(CC)CC | C6H15N
solvent | triethylamine | 5.5ml | C(C)N(CC)CC | C6H15N
product | N-{3-[4-(chloroacetyl)phenyl]propionyl} alanine methyl ester | COC([C@@H](NC(CCC1=CC=C(C=C1)C(CCl)=O)=O)C)=O | C15H18ClNO4
